US05576322
8.89 g of 6-chloro-2-mercaptobenzimidazole was dissolved in 150 ml of dimethylformamide, followed by the addition of 6.65 g of potassium carbonate and 6.15 g of methyl iodide under cooling with ice. The obtained mixture was stirred at that temperature for 50 minutes, followed by the addition of water. The resulting mixture was extracted with ethyl acetate. The ethyl acetate layer was dried and concentrated in a vacuum to give crude 6-chloro-2-methylthiobenzimidazole.

reactant | 6-chloro-2-mercaptobenzimidazole | 8.89 g | ClC=1C=CC2=C(N=C(N2)S)C1 | C7H5ClN2S
reactant | potassium carbonate | 6.65 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 6.15 g | CI | CH3I
reactant | water | O | H2O
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | 6-chloro-2-methylthiobenzimidazole | ClC=1C=CC2=C(N=C(N2)SC)C1 | C8H7ClN2S
